US04086350
The Grignard reagent prepared from 0.53 g. (0.0216 m.) of magnesium and 2.9 g. (0.0216 m.) of 4-chloro-N-methylpiperidine is reacted with 2.3 g. (0.0108 m.) of 2-fluoroxanthone as described in Example 3. The reaction mixture is heated for four hours and then decomposed with saturated ammonium chloride solution to yield 2-fluoro-9-(1-methyl-4-piperidyl)-xanthene-9-ol, m.p. 193°-200° C.

reactant | magnesium | [Mg] | Mg
reactant | 4-chloro-N-methylpiperidine | ClC1CCN(CC1)C | C6H12ClN
reactant | 2-fluoroxanthone | FC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C13H7FO2
reactant | ammonium chloride | [Cl-].[NH4+]
product | 2-fluoro-9-(1-methyl-4-piperidyl)-xanthene-9-ol | FC1=CC=2C(C3=CC=CC=C3OC2C=C1)(O)C1CCN(CC1)C | C19H20FNO2
